US05389653
5.0 g of 3,4-dimethoxy-5-nitrophenyl (1-methylimidazol-2-yl) ketone are treated with 50 ml of hydrobromic acid (48%), whereupon the mixture is stirred under reflux temperature for 2 hours. After cooling the separated precipitate is filtered under suction, washed with ice-water and recrystallized from ethanol. There is obtained 3,4-dihydroxy-5-nitrophenyl (1-methyl- imidazol-2-yl) ketone hydrobromide in the form of yellow crystals of decomposition point >240°.

reactant | 3,4-dimethoxy-5-nitrophenyl (1-methylimidazol-2-yl) ketone | 5.0 g | CN1C(=NC=C1)C(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])OC)OC | C13H13N3O5
reactant | hydrobromic acid | 50 ml | Br | BrH
product | 3,4-dihydroxy-5-nitrophenyl (1-methyl- imidazol-2-yl) ketone hydrobromide | Br.CN1C(=NC=C1)C(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)O | InChI=1S/C11H9N3O5.BrH/c1-13-3-2-12-11(13)9(16)6-4-7(14(18)19)10(17)8(15)5-6;/h2-5,15,17H,1H3;1H
